US07220856B2
7-Chloro-4-[4-[cyanimino(phenoxy)methyl]piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (798 mg, 3.22 mmol) and diphenyl cyanocarbonimidate (853 mg, 3.58 mmol) in THF (10 mL) are stirred at room temp. for 15 h. The reaction mixture is diluted with ether, and the precipitate is filtered off to yield the title product as a colorless solid.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 3.22 mmol, 798 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | diphenyl cyanocarbonimidate | 3.58 mmol, 853 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 7-Chloro-4-[4-[cyanimino(phenoxy)methyl]piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OC1=CC=CC=C1)=NC#N | C21H18ClN5O
